US07943629B2
5-Bromo-N4-cyclopropyl-N2-(3-methylsulphanylphenyl)pyrimidine-2,4-diamine
In analogy to compound 2.1, 0.58 g (2.33 mmol) of (5-bromo-2-chloropyrimidin-4-yl)-cyclopropylamine is reacted with 0.296 g (2.12 mmol) of 3-methylsulphanyl-phenylamine in 7.0 ml of acetonitrile in the presence of 0.53 mol of a 4 molar solution of hydrogen chloride in dioxane, and 0.67 ml of water. 0.6 g (73% of theory) of the product is obtained.

reactant | (5-bromo-2-chloropyrimidin-4-yl)-cyclopropylamine | 2.33 mmol, 0.58 g | BrC=1C(=NC(=NC1)Cl)NC1CC1 | C7H7BrClN3
reactant | 3-methylsulphanyl-phenylamine | 2.12 mmol, 0.296 g | CSC=1C=C(C=CC1)N | C7H9NS
reactant | hydrogen chloride | Cl | ClH
reactant | water | 0.67 ml | O | H2O
solvent | acetonitrile | 7.0 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-N4-cyclopropyl-N2-(3-methylsulphanylphenyl)pyrimidine-2,4-diamine | BrC=1C(=NC(=NC1)NC1=CC(=CC=C1)SC)NC1CC1 | C14H15BrN4S
